US04629781
Preparation of deglucoteicoplanin from teicoplanin complex
To a suspension of 5 g of teicoplanin complex (i.e. the antibiotic complex containing teichomycin factors A1, A2 and A3, as obtained by fermentation of strain ATCC 31121 according to U.S. Pat. No. 4,239,751) in 80 ml of 1-octanol, are added 20 ml of 37% (w/v) aqueous HCl at about 40° C. and the mixture is heated at 65° C. and stirred under vacuum for 13 hours. During the reaction time, additions of a mixture of 5 ml of 37% aqueous HCl and 15 ml of 1-octanol are repeated every two hours. At the end of the reaction, the mixture is cooled to room temperature and then poured into 800 ml of ethyl ether. The solid which precipitates is washed with acetone and dried under vacuum at 40° C. overnight. The crude product thus obtained is then worked up according to the last part of Example 4, yielding 0.6 g of substantially pure deglucoteicoplanin.

reactant | teichomycin | CCCCCCCCCC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@H]1OC2=C3C=C4C=C2OC5=C(C=C(C=C5)[C@H]([C@H]6C(=O)N[C@H](C7=CC(=CC(=C7C8=C(C=CC(=C8)[C@H](C(=O)N6)NC(=O)[C@@H]4NC(=O)[C@@H]9C1=CC(=CC(=C1)O)OC1=C(C=CC(=C1)[C@H](C(=O)N[C@H](CC1=CC(=C(O3)C=C1)Cl)C(=O)N9)N)O)O)O[C@@H]1[C@H]([C@H]([C@@H]([C@H](O1)CO)O)O)O)O)C(=O)O)O[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O)O)NC(=O)C)Cl)CO)O)O | C88H97Cl2N9O33
reactant | HCl | Cl | ClH
reactant | HCl | 5 ml | Cl | ClH
reactant | ethyl ether | 800 ml | C(C)OCC | C4H10O
solvent | 1-octanol | 80 ml | C(CCCCCCC)O | C8H18O
solvent | 1-octanol | 15 ml | C(CCCCCCC)O | C8H18O
product | teicoplanin | CC(=O)N[C@H]1[C@H]([C@@H]([C@@H](O[C@H]1OC2=C3C=C4C=C2OC=5C=CC(=CC5Cl)[C@H]([C@H]6C(=O)N[C@@H](C=7C=C(C=C(C7C=8C=C(C=CC8O)[C@H](C(=O)N6)NC(=O)[C@@H]4NC(=O)[C@@H]9C1=CC(=CC(=C1)OC=1C=C(C=CC1O)[C@H](C(=O)N[C@H](CC=1C=CC(=C(C1)Cl)O3)C(=O)N9)N)O)O[C@@H]1[C@H]([C@@H]([C@@H]([C@H](O1)CO)O)O)O)O)C(=O)O)O[C@H]1[C@H]([C@H]([C@@H]([C@@H](O1)CO)O)O)NC(=O)C)CO)O)O | C80H81Cl2N9O33
